US09428508B2
To a solution of 4-nitrobenzo[d][1,3]dioxole (2.0 g, 12 mmol) in ethanol (80 mL) was added Raney Ni (ca. 0.5 g). The mixture was stirred under an atmosphere of hydrogen for 4 hours. The catalyst was removed by filtration and the filtrate was concentrated. The residue was purified by silica gel chromatography (dichloromethane) to afford the product benzo[d][1,3]dioxol-4-amine (1.04 g, yield 63%). 1H NMR (400 MHz, CDCl3) δ ppm 6.64-6.68 (t, 1H, J=8.0 Hz), 6.29-6.35 (dt, 2H, J=0.8 Hz, 6.4 Hz), 5.90 (s, 2H), 3.52 (br, 2H).

reactant | 4-nitrobenzo[d][1,3]dioxole | 12 mmol, 2.0 g | [N+](=O)([O-])C1=CC=CC=2OCOC21 | C7H5NO4
solvent | ethanol | 80 mL | C(C)O | C2H6O
catalyst | Ni | ca. 0.5 g | [Ni] | Ni
product | benzo[d][1,3]dioxol-4-amine | 1.04 g, yield 63% | O1COC2=C1C=CC=C2N | C7H7NO2
